US05098462
To methyl 3-acetyl-2-pyridinecarboxylate (1.86 g) in 20 ml of ethanol is added lithium hydroxide monohydrate (10 mmol) in 20 ml of hot water. After 1 hour, conc. hydrochloric acid (1 ml) is added, and the mixture is reduced under vacuum. The resulting solid is extracted with hot methylene chloride, and the residue is stirred with 15 ml of THF for 1 hour at 60°, then filtered and dried to give 3-acetyl-2-pyridinecarboxylic acid.

reactant | methyl 3-acetyl-2-pyridinecarboxylate | 1.86 g | C(C)(=O)C=1C(=NC=CC1)C(=O)OC | C9H9NO3
reactant | lithium hydroxide monohydrate | 10 mmol | O.[OH-].[Li+]
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 3-acetyl-2-pyridinecarboxylic acid | C(C)(=O)C=1C(=NC=CC1)C(=O)O | C8H7NO3
